US07262198B2
5-Indanol (1 g, 7.45 mmol) in NaOH(aq) (5.22 mL, 20.88 mmol, 4 M soln.) was treated with dibromobutane (3.38 mL, 28.3 mmol) and t-butylammoniumhydrogensulfate (catalytic). The solution was placed in a Robbins™ oven for 14 hours at 99° C. Upon cooling, the pH was adjusted to ˜8 with 4 N NaOH. CH2Cl2 was then added and the solution washed with H2O (×2) and brine. The organic layer was dried over MgSO4 and concentrated to an oil. The oil was then dissolved in 4:1 hexane/EtOAc and passed through a plug of silica gel which was then washed with 4:1 hexane/EtOAc. The filtrate was concentrated to afford 4-bromo-1-indan-5-yloxybutane.

reactant | 5-Indanol | 7.45 mmol, 1 g | C1CCC2=CC(=CC=C12)O | C9H10O
reactant | NaOH | 20.88 mmol, 4 M, 5.22 mL | [OH-].[Na+]
reactant | dibromobutane | 28.3 mmol, 3.38 mL | BrC(C(C)Br)C | C4H8Br2
reactant | t-butylammoniumhydrogensulfate | S(=O)(=O)(O)[O-].C(C)(C)(C)[NH3+]
reactant | NaOH | 4 N | [OH-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-bromo-1-indan-5-yloxybutane | BrCCCCOC=1C=C2CCCC2=CC1 | C13H17BrO
